US05026856
7-(2-isoindolinyl-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 136 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 180 mg of isoindoline, and 1.5 ml of anhydrous DMF was heated at 120° C. for 1.5 hours while stirring. The resulting reaction mixture was evaporated under reduced pressure to dryness. The residue thus obtained was dissolved into 20 ml of chloroform. The solution was washed with 5% acetic acid and brine in this order, dried over anhydrous sodium sulfate, and condensed. The residue was crystallized by the addition of hot ethanol. After cooling the mixture, the crystals were collected by filtration and recrystallized from a mixed solvent of chloroform, methanol, and ethanol to obtain 123 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | isoindoline | 180 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-isoindolinyl-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 123 mg | C1(NCC2=CC=CC=C12)C=1N(C2=C(C=C(C=C2C(C1C(=O)O)=O)F)F)C1CC1 | C21H16F2N2O3
